US07851469B2
d) 1-[3-(4-Fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-ethanone
As described for Example 1e, 3-(4-fluoro-phenyl)-5-trifluoromethyl-isoxazole (50.0 mg, 216 mmol), instead of 3-phenyl-4-(1-phenyl-1H-imidazol-4-yl)-5-trifluoromethyl-isoxazole, was converted to the title compound (50.2 mg, 85%) which was obtained as a light yellow oil. MS: m/e=272.1 [M−H]−.

reactant | 3-(4-fluoro-phenyl)-5-trifluoromethyl-isoxazole | 216 mmol, 50.0 mg | FC1=CC=C(C=C1)C1=NOC(=C1)C(F)(F)F | C10H5F4NO
reactant | 3-phenyl-4-(1-phenyl-1H-imidazol-4-yl)-5-trifluoromethyl-isoxazole | C1(=CC=CC=C1)C1=NOC(=C1C=1N=CN(C1)C1=CC=CC=C1)C(F)(F)F | C19H12F3N3O
product | 1-[3-(4-Fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-ethanone | 50.2 mg, 85% | FC1=CC=C(C=C1)C1=NOC(=C1C(C)=O)C(F)(F)F | C12H7F4NO2
